US03960967
A solution of n-butyllithium in hexane (46.5 ml., 1.95 M) was added over 45 minutes to a solution of 10.4 g. of 1-phenyl sulfonyl-2-methyl-4-hydroxy-but-2-ene in 200 ml. of tetrahydrofuran at -65° to -70°C. The reaction mixture was stirred at -70°C. for 40 minutes and a solution of 1-chloro-3-methyl-5-(2,6,6-trimethylcyclohexen-1-yl)-penta-2,4-diene in 45 ml. of THF was added over 10 minutes at -65° to -70°C. The solution was stirred at this temperature for one hour and then raised to 0°C. over 15 minutes. The reaction mixture was then poured into 250 ml. of 4% by weight aqueous hydrochloric acid and extracted with ethyl acetate. The extract was washed with sodium bicarbonate solution and water and dried. Evaporation of the solvent gave 23.22 g. of crude product. Chromatography of a 19 g. portion on alumina afforded 7.71 g. of pure 1-hydroxy-3,7-dimethyl-4-(phenylsulfonyl)-9-(2,6,6-trimethylcyclohexen-1-yl)-nona-2,6,8-triene (48% yield) as a pale yellow oil having a UV in isopropanol at λ max= 272- 3 mμ (ε=16800).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-phenyl sulfonyl-2-methyl-4-hydroxy-but-2-ene | C1(=CC=CC=C1)C(C(=CCO)C)=S(=O)=O | C11H12O3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1-chloro-3-methyl-5-(2,6,6-trimethylcyclohexen-1-yl)-penta-2,4-diene | ClCC=C(C=CC1=C(CCCC1(C)C)C)C | C15H23Cl
reactant | THF | C1CCOC1 | C4H8O
reactant | hexane | 1.95 M, 46.5 ml | CCCCCC | C6H14
product | 1-hydroxy-3,7-dimethyl-4-(phenylsulfonyl)-9-(2,6,6-trimethylcyclohexen-1-yl)-nona-2,6,8-triene | 48% yield | OCC=C(C(CC=C(C=CC1=C(CCCC1(C)C)C)C)S(=O)(=O)C1=CC=CC=C1)C | C26H36O3S
